US07456164B2
N-({4-[4-(3-piperidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)pyridin-2-amine
4-{4-[(pyridin-2-ylamino)methyl]tetrahydro-2H-pyran-4-yl}phenol (200 mg, 0.704 mmol), 3-chloropropylpiperidine hydrochloride (152 mg, 0.775 mmol) and potassium carbonate (204 mg, 1.48 mmol) were stirred in DMF (1 ml) at 45° C. for 24 hours until complete. The reaction was then partitioned between ethyl acetate (40 ml) and water (40 ml). The organic layer was separated, dried over sodium sulphate and concentrated in vacuo to give a solid. The solid was purified by preparative HPLC to give the title compound (220 mg, 76%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 1.44-1.55 (m, 2H), 1.64-1.78 (m, 4H), 1.85-2.00 (m, 2H), 2.08-2.18 (m, 4H), 2.52-2.70 (m, 6H), 3.48 (d, 2H), 3.52-3.62 (m, 2H), 3.78-3.85 (m, 2H), 4.02 (t, 2H), 6.21 (d, 1H), 6.50 (t, 1H), 6.90 (d, 2H), 7.24 (d, 2H), 7.34 (t, 1H), 8.01 (d, 1H). LRMS APCI+ m/z 410 [MH]+.

reactant | 4-{4-[(pyridin-2-ylamino)methyl]tetrahydro-2H-pyran-4-yl}phenol | 0.704 mmol, 200 mg | N1=C(C=CC=C1)NCC1(CCOCC1)C1=CC=C(C=C1)O | C17H20N2O2
reactant | 3-chloropropylpiperidine hydrochloride | 0.775 mmol, 152 mg | Cl.ClCCCN1CCCCC1
reactant | potassium carbonate | 1.48 mmol, 204 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-({4-[4-(3-piperidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)pyridin-2-amine | 220 mg, 76% | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=C1 | C25H35N3O2
